US06472386B1
Synthesis of N,N′-bis[[1-Methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazol-3-yl]methyl]piperazine
3-Chloromethyl-1-methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazole (101 mg) and piperazine (13 mg) were reacted in the same manner in Example 1 to obtain the title compound.

reactant | 3-Chloromethyl-1-methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazole | 101 mg | ClCC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)COC | C15H19ClN2O4
reactant | piperazine | 13 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[1-Methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazol-3-yl]methyl]piperazine | COCN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CN1CCN(CC1)CC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)COC | C34H46N6O8
